US04290953
A mixture of 10,11-dihydro-4-methoxydibenz[b,f][1,4]oxazepine-8-carboxylic acid (3 g), isopropanol (30 ml) and concentrated sulfuric acid (0.5 ml) was refluxed for 10 hours and then the solvent used was distilled off. The residue was dissolved in ethyl acetate (50 ml) and, after washing with water, dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was recrystallized from ethanol to give isopropyl 10,11-dihydro-4-methoxydibenz[b,f][1,4]oxazepine-8-carboxylate as colorless needles. (Yield: 90%, m.p. 109.5°-110.5° C.)

reactant | 10,11-dihydro-4-methoxydibenz[b,f][1,4]oxazepine-8-carboxylic acid | 3 g | COC1=CC=CC=2CNC3=C(OC21)C=CC(=C3)C(=O)O | C15H13NO4
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | isopropyl 10,11-dihydro-4-methoxydibenz[b,f][1,4]oxazepine-8-carboxylate | Yield: 90% | COC1=CC=CC=2CNC3=C(OC21)C=CC(=C3)C(=O)OC(C)C | C18H19NO4
